US04847256
7-(3-Nitrophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 24.4 g of 3-dimethylamino-3'-nitroacrylophenone, 13.0 g of 3-aminopyrazole-4-carbonitrile and 120 ml of glacial acetic acid was heated at reflux for 7 hours, then was stirred at room temperature for 16 hours. The precipitate was collected, triturated with saturated aqueous sodium bicarbonate, filtered and washed with water. The solid was then triturated with acetonitrile, filtered and dried and gave the desired product, mp 244°-246° C.

reactant | 3-dimethylamino-3'-nitroacrylophenone | 24.4 g | CN(C=CC(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | 3-aminopyrazole-4-carbonitrile | 13.0 g | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Nitrophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C#N | C13H7N5O2
